US06849657B2
A solution of anhydrous dimethylsulfoxide (0.21 mL, 2.7 mmol) in 5 mL of methylene chloride under argon atmosphere was cooled to −70° C. and trifluoroacetic anhydride (0.17 mL, 1.2 mmol) in 1 mL of methylene chloride was added dropwise. The reaction was stirred for 15 minutes maintaining the temperature and then methyl 4-({2-[(5R)-5-(hydroxymethyl)-2-oxo pyrrolidin-1-yl]ethyl}thio)butanoate (0.15 g, 0.55 mmol) in 2 mL of methylene chloride was added. The solution was stirred and kept at −70° C. for 20 minutes followed by the addition of triethylamine (0.27 mL, 1.9 mmol). The reaction was allowed to come to room temperature, stirred for 30 minutes and then quenched with the addition of aqueous phosphoric acid solution (2%, 50 mL) and methylene chloride (25 mL). The reaction phases were separated and the combined organic layers were dried (Na2SO4) and evaporated under reduced pressure to yield methyl 4-({2-[(2R)-2-formyl-5-oxopyrrolidin-1-yl]ethyl}thio)butanoate which was taken on to next step.

reactant | dimethylsulfoxide | 2.7 mmol, 0.21 mL | CS(=O)C | C2H6OS
reactant | trifluoroacetic anhydride | 1.2 mmol, 0.17 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | methyl 4-({2-[(5R)-5-(hydroxymethyl)-2-oxo pyrrolidin-1-yl]ethyl}thio)butanoate | 0.55 mmol, 0.15 g | OC[C@H]1CCC(N1CCSCCCC(=O)OC)=O | C12H21NO4S
reactant | triethylamine | 1.9 mmol, 0.27 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | methyl 4-({2-[(2R)-2-formyl-5-oxopyrrolidin-1-yl]ethyl}thio)butanoate | C(=O)[C@@H]1N(C(CC1)=O)CCSCCCC(=O)OC | C12H19NO4S
